US06492348B1
(3aS,4S,6R,6aR)-6-(6-Cyclopentylamino-purin-9-yl)-2,2-dimethyl-tetrahydro-furo[3,4-d][1,3]dioxole-4-carboxylic acid hydrazide
A mixture of (3aS,4S,6R,6aR)-6-(6-cyclopentylamino-purin-9-yl)-2,2-dimethyl-tetrahydro-furo[3,4-d][1,3]dioxole-4-carboxylic acid methyl ester (0.48 g) and hydrazine hydrate (0.29 ml) in methanol (10 ml) was heated at reflux for 28 h. After cooling to room temperature, the mixture was concentrated in vacuo and the residue evaporated twice with dichloromethane (2×20 ml) to give the title compound as a white solid (0.49 g).

reactant | (3aS,4S,6R,6aR)-6-(6-cyclopentylamino-purin-9-yl)-2,2-dimethyl-tetrahydro-furo[3,4-d][1,3]dioxole-4-carboxylic acid methyl ester | 0.48 g | COC(=O)[C@H]1O[C@H]([C@@H]2OC(O[C@@H]21)(C)C)N2C1=NC=NC(=C1N=C2)NC2CCCC2 | C19H25N5O5
reactant | hydrazine hydrate | 0.29 ml | O.NN
solvent | methanol | 10 ml | CO | CH4O
product | (3aS,4S,6R,6aR)-6-(6-Cyclopentylamino-purin-9-yl)-2,2-dimethyl-tetrahydro-furo[3,4-d][1,3]dioxole-4-carboxylic acid hydrazide | 0.49 g | C1(CCCC1)NC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)C(=O)NN | C18H25N7O4
